US04921863
2-{2-[4-(p-Fluorobenzyl)piperidinyl]ethyl}naphthalene hydrochloride:
1.05 g of 1-chloro-2-(2-naphthyl)ethane, 1.09 g of 4-(p-fluorobenzyl)piperidine, 0.2 g of potassium iodide and 1.4 g of sodium hydrogencarbonate were refluxed in n-butanol solvent for 5 h. Then, the solvent was filtered out and 100 ml of chloroform was added to the residue. The mixture was washed with water and dried over magnesium sulfate. The oily product thus obtained was purified according to silica gel column chromatography and converted into its hydrochloride by an ordinary method.

reactant | 1-chloro-2-(2-naphthyl)ethane | 1.05 g | ClCCC1=CC2=CC=CC=C2C=C1 | C12H11Cl
reactant | 4-(p-fluorobenzyl)piperidine | 1.09 g | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | sodium hydrogencarbonate | 1.4 g | C(O)([O-])=O.[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-{2-[4-(p-Fluorobenzyl)piperidinyl]ethyl}naphthalene hydrochloride | Cl.FC1=CC=C(CC2CCN(CC2)CCC2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C24H26FN.ClH/c25-24-9-6-19(7-10-24)17-21-12-15-26(16-13-21)14-11-20-5-8-22-3-1-2-4-23(22)18-20;/h1-10,18,21H,11-17H2;1H
